* LIFeling portable, datasheet-derived device models
* These models are intended for functional validation and regression only.
* They are not substitutes for official vendor models or hardware measurements.

.model LIF_MMBT3904 NPN (IS=35f NF=1 BF=300 VAF=100 IKF=0.12 ISE=12p NE=2 BR=5 NR=1 VAR=25 RE=2.5 RB=12 RC=1 CJE=10p VJE=0.75 MJE=0.33 CJC=5p VJC=0.55 MJC=0.33 TF=400p TR=75n EG=1.11)
.model LIF_BSS138 NMOS (LEVEL=3 VTO=1.20 KP=0.055 THETA=0.08 LAMBDA=0.02 RD=1.8 RS=1.8 CGSO=14p CGDO=10p CBD=18p PB=0.8 IS=5p)
.model LIF_BAT54WS D (IS=2.0u N=1.08 RS=1.2 CJO=10p M=0.33 EG=0.69 BV=30 IBV=10u TT=5n)
.model LIF_RB521S30 D (IS=7.0u N=1.04 RS=0.65 CJO=12p M=0.32 EG=0.69 BV=30 IBV=100u TT=4n)
.model LIF_1N4148WS D (IS=3n N=1.75 RS=0.6 CJO=2p M=0.33 BV=100 IBV=5u TT=4n)
.model LIF_LED_RED D (IS=4n N=2.0 RS=24 CJO=7p EG=1.80 BV=5 IBV=10u)
.model LIF_LED_GREEN D (IS=1n N=2.2 RS=28 CJO=6p EG=2.15 BV=5 IBV=10u)
.model LIF_LED_BLUE D (IS=0.2n N=2.7 RS=32 CJO=5p EG=2.65 BV=5 IBV=10u)
.model LIF_SW_OD SW (RON=18 ROFF=1e12 VT=0 VH=5m)
.model LIF_SW_PP_HI SW (RON=22 ROFF=1e12 VT=0 VH=5m)
.model LIF_SW_PP_LO SW (RON=18 ROFF=1e12 VT=0 VH=5m)
.model LIF_SW_ANALOG SW (RON=0.9 ROFF=1e12 VT=0 VH=20m)
.model LIF_SW_BOOST_LO SW (RON=0.18 ROFF=1e9 VT=0.5 VH=0.05)
.model LIF_SW_BOOST_HI SW (RON=0.22 ROFF=1e9 VT=0.5 VH=0.05)

* Generic RRIO op amp. Pin order: IN+ IN- V+ V- OUT
.subckt LIF_RRIO_OPAMP INP INN VP VN OUT PARAMS: AOL=1e6 GBW=1Meg ROUT=45 VHEAD=0.025 IQ=60u
GERR NERR VN VALUE={1u*(V(INP)-V(INN))}
RERR NERR VN {AOL/1u}
CDOM NERR VN {1/(6.283185307179586*GBW*(AOL/1u))}
BCLIP NDRV VN V={min(max(V(NERR,VN)+V(VN),V(VN)+VHEAD),V(VP)-VHEAD)-V(VN)}
ROUT NDRV OUT {ROUT}
IQSUP VP VN DC {IQ}
RINP INP VN 20T
RINN INN VN 20T
CIN INP INN 2p
.ends LIF_RRIO_OPAMP

.subckt LIF_TLV9001 INP INN VP VN OUT
XCORE INP INN VP VN OUT LIF_RRIO_OPAMP PARAMS: AOL=1e6 GBW=1Meg ROUT=35 VHEAD=0.02 IQ=60u
.ends LIF_TLV9001

.subckt LIF_TLV9041 INP INN VP VN OUT
XCORE INP INN VP VN OUT LIF_RRIO_OPAMP PARAMS: AOL=8e5 GBW=350k ROUT=42 VHEAD=0.02 IQ=10u
.ends LIF_TLV9041

* Open-drain comparator. Pin order: OUT V- IN+ IN- V+
.subckt LIF_TLV7041_OD OUT VN INP INN VP
BERR NRAW VN V={V(INN)-V(INP)}
RPD NRAW NDEL 3Meg
CPD NDEL VN 1p
BCTL CTRL VN V={tanh(120*(V(NDEL,VN)-5m))}
SINK OUT VN CTRL VN LIF_SW_OD
IQSUP VP VN DC 315n
COUT OUT VN 2p
RINP INP VN 500G
RINN INN VN 500G
.ends LIF_TLV7041_OD

* Push-pull comparator. Pin order: OUT V- IN+ IN- V+
.subckt LIF_TLV7031_PP OUT VN INP INN VP
BERR NRAW VN V={V(INP)-V(INN)}
RPD NRAW NDEL 3Meg
CPD NDEL VN 1p
BCTRLHI CHI VN V={tanh(120*(V(NDEL,VN)-5m))}
BCTRLLO CLO VN V={-V(CHI,VN)}
SHI VP NDRV CHI VN LIF_SW_PP_HI
SLO NDRV VN CLO VN LIF_SW_PP_LO
ROUT NDRV OUT 20
IQSUP VP VN DC 335n
COUT OUT VN 2p
.ends LIF_TLV7031_PP

* TS5A3166 functional model. Pin order: NO COM GND IN V+
.subckt LIF_TS5A3166 NO COM GND IN VP
BCTRL CTRL GND V={V(IN,GND)-0.5*V(VP,GND)}
SMAIN NO COM CTRL GND LIF_SW_ANALOG
COFF NO COM 9p
CNO NO GND 18p
CCOM COM GND 18p
RLEAK NO COM 50G
IQ VP GND DC 1n
.ends LIF_TS5A3166

* REF3020 functional source-only reference. Pin order: VIN VOUT GND
.subckt LIF_REF3020 VIN VOUT GND
BTARGET NTARGET GND V={max(0,min(2.048,V(VIN,GND)-0.055))}
RSTART NTARGET NSTART 100k
CSTART NSTART GND 2n
BSOURCE GND VOUT I={max((V(NSTART,GND)-V(VOUT,GND))/8,0)}
RDIS VOUT GND 50Meg
COUT VOUT GND 15p
IQ VIN GND DC 42u
.ends LIF_REF3020

* TPD1E05U06 datasheet-derived two-terminal model. Pin order: IO GND
.subckt LIF_TPD1E05U06 IO GND
CIO IO GND 0.5p
RLEAK IO GND 550Meg
DCLAMP IO NCLAMP D_TPD_CLAMP
RCLAMP NCLAMP GND 0.8
.model D_TPD_CLAMP D (IS=5p N=1.2 BV=6.5 IBV=1m CJO=0.15p M=0.3 TT=1n)
.ends LIF_TPD1E05U06

* Dynamic CR2032 model. Pin order: P N. SOC is 0..1 and CAPAH is nominal Ah.
.subckt LIF_CR2032_DYNAMIC P N PARAMS: SOC=1 R0=20 CAPAH=0.22 RP1=35 CP1=200 RP2=120 CP2=2000
CSOC NSOC N {CAPAH*3600} IC={SOC}
* The cold-start deck is intentionally short, so SOC remains inside 0..1.
* Avoid nested max()/min() here: they add non-smooth behavioural derivatives
* inside the 1 MHz converter loop and make the deck impractically slow.
BOCV NOCV N V={2.55+0.50*V(NSOC,N)-0.06*(1-V(NSOC,N))^2}
VSENSE NOCV NINT 0
R0 NINT NPOL1 {R0}
RP1 NPOL1 NPOL2 {RP1}
CP1 NPOL1 NPOL2 {CP1}
RP2 NPOL2 P {RP2}
CP2 NPOL2 P {CP2}
* A current-controlled source is equivalent to the former behavioural
* current expression but is substantially cheaper for ngspice to solve.
FSOC NSOC N VSENSE 1
.ends LIF_CR2032_DYNAMIC

* TPS610995 functional switching model. Pin order: GND VOUT FB EN SW VIN
* Uses the physical external inductor connected to SW and the physical output capacitors.
.subckt LIF_TPS610995_SWITCHING GND VOUT FB EN SW VIN PARAMS: FSW=1Meg VSET=3.6 ILIM=0.8 UVLO=0.7
VSENSE SW NSW 0
BDUTY DUTY GND V={min(0.90,max(0.05,1-V(VIN,GND)/max(VSET,0.1)+0.30*(VSET-V(VOUT,GND))))}
VOSC OSC GND PULSE(0 1 0 {0.998/FSW} {0.001/FSW} {0.0005/FSW} {1/FSW})
BGATE GATE GND V={0.0625*(1+tanh(100*(V(EN,GND)-0.55*max(V(VIN,GND),1))))*(1+tanh(100*(V(VIN,GND)-UVLO)))*(1+tanh(50*(ILIM-abs(I(VSENSE)))))*(1+tanh(100*(V(DUTY,GND)-V(OSC,GND))))}
BINVGATE NGATE GND V={1-V(GATE,GND)}
SLOW NSW GND GATE GND LIF_SW_BOOST_LO
SHIGH NSW VOUT NGATE GND LIF_SW_BOOST_HI
RSHUT VOUT GND 100Meg
IQIN VIN GND DC 400n
IQOUT VOUT GND DC 600n
.ends LIF_TPS610995_SWITCHING
