* source BOUNDARYWIRE
C_C1         0 36V  100n  TC=0,0 
C_C2         36V VCP  100n  TC=0,0 
C_C3         N00571 N00555  22n  TC=0,0 
C_C4         N00571 N00555  22n  TC=0,0 
C_C5         0 VREF  100n  TC=0,0 
L_L1         N345217 OUT2  245uH  
R_R1         VREF 3.3V  1k TC=0,0 
R_R2         0 VREF  10k TC=0,0 
R_R3         0 IPROPI  1k TC=0,0 
R_R4         FAULT 3.3V  10k TC=0,0 
V_V1         36V 0 36Vdc
V_V2         3.3V 0 3.3Vdc
V_V3         IN1 0 DC 0 AC 0
+PULSE 0 3.3 1.0125m 10n 10n 12.5u 200u
V_V4         IN2 0 DC 0 AC 0
+PULSE 0 3.3 1.0375m 10n 10n 12.5u 200u
X_U1         N00571 N00555 IN1 0 0 IPROPI FAULT N343768 OUT1 OUT2 0 0 IN2 3.3V
+  VCP 36V VREF DRV8876_TRANS
V_V5         N343768 0  
+PULSE 0 3.3 10u 1u 1u 4m 2
R_R5         OUT1 N345217  2.8 TC=0,0 
L_L2         N347190 1V65  7.77mH  
R_R6         N347190 RX  78.4 TC=0,0 
R_R7         1V65 RX  78.7 TC=0,0 
Kn_K1         L_L1 L_L2     10u
X_U2         N353775 N353739 3.3V 0 HPOUT TLV9002
X_U3         N354447 N354501 3.3V 0 1V65 TLV9002
C_C6         N353771 N353775  1nf  TC=0,0 
C_C7         G3 N353771  1nf  TC=0,0 
R_R8         N353771 HPOUT  86.6k TC=0,0 
R_R9         N353739 HPOUT  10k TC=0,0 
R_R10         1V65 N353775  107k TC=0,0 
R_R11         N354447 3.3V  20k TC=0,0 
R_R12         0 N354447  20k TC=0,0 
R_R13         1V65 N354501  10k TC=0,0 
X_U4         RX N355805 3.3V 0 G1 TLV9002
R_R14         N355805 G1  100k TC=0,0 
R_R15         1V65 N355805  10k TC=0,0 
R_R16         1V65 N353739  10k TC=0,0 
R_R17         N366359 G2  100k TC=0,0 
X_U5         G1 N366359 3.3V 0 G2 TLV9002
R_R18         1V65 N366359  10k TC=0,0 
R_R19         N367156 G3  100k TC=0,0 
R_R20         1V65 N367156  10k TC=0,0 
X_U6         G2 N367156 3.3V 0 G3 TLV9002
X_U7         HPOUT N371660 3.3V 0 G4 TLV9002
R_R22         1V65 N371660  10k TC=0,0 
R_R21         N371660 G4  100k TC=0,0 
X_U8         G4 N375388 POS 3.3V 0 TLV7031
X_U9         N375396 G4 NEG 3.3V 0 TLV7031
R_R23         N375388 3.3V  100k TC=0,0 
R_R24         1V65 N375388  2k TC=0,0 
R_R25         N375396 1V65  2k TC=0,0 
R_R26         0 N375396  100k TC=0,0 
